US07285555B2
To a solution of the above 5-cycloheptyl-6-(2,4,6-trifluorophenyl)imidazo[1,2-a]pyrimidin-7-ol and 3-dimethylamino-1-propanol (206 m g, 2.0 mmol) in 3.0 mL of dimethylsulfoxide at room temperature is added sodium hydride (60% in mineral oil, 80 mg, 2.0 mmol). The mixture is heated at 40° C. for 2 h, and cooled to room temperature. A saturated sodium chloride solution is added, and the product is extracted with ehtyl acetate. The organic solution is washed with saturated sodium chloride (×3), dried over magnesium sulfate, and concentrated. To the residue is added 5 mL of phosphorous oxychloride and 2 mL of N,N-diethylaniline, and the mixture is heated at 110° C. for 1 h. The excess phosphorous oxychloride is removed in vaccuo, and the resulting residue is partitioned between ethyl acetate and 5% sodium carbonate solution. The organic layer is washed with saturated sodium chloride, dried over magnesium sulfate, and concentrated. The residue is chromatographed over silica gel, eluting with a gradient of ethyl acetate to 20% methyl alcohol in ethyl acetate. Concentration provides 3-[4-(7-chloro-5-cycloheptylimidazo[1,2-a]pyrimidin-6-yl)-3,5-difluorophenoxy]-N,N-dimethylpropan-1-amine as a brown oil (24 mg). MS: m/z 463.3 (M+H).

reactant | 5-cycloheptyl-6-(2,4,6-trifluorophenyl)imidazo[1,2-a]pyrimidin-7-ol | C1(CCCCCC1)C1=C(C(=NC=2N1C=CN2)O)C2=C(C=C(C=C2F)F)F | C19H18F3N3O
reactant | 3-dimethylamino-1-propanol | 2.0 mmol | CN(CCCO)C | C5H13NO
reactant | sodium hydride | 2.0 mmol, 80 mg | [H-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethylsulfoxide | 3.0 mL | CS(=O)C | C2H6OS
product | 3-[4-(7-chloro-5-cycloheptylimidazo[1,2-a]pyrimidin-6-yl)-3,5-difluorophenoxy]-N,N-dimethylpropan-1-amine | 24 mg | ClC1=NC=2N(C(=C1C1=C(C=C(OCCCN(C)C)C=C1F)F)C1CCCCCC1)C=CN2 | C24H29ClF2N4O
